US05306728
0.5 g of 3-bromophenol and 0.33 ml of ethyl bromoacetate were dissolved in 4 ml of dimethylformamide, and 0.4 g of potassium carbonate was added. The mixture was stirred at 65°-70° C. for 3.5 hours. The solvent was evaporated, and the residue was worked up in a customary manner to give 0.6 g of ethyl 3-bromophenoxyacetate as a colorless oil.

reactant | 3-bromophenol | 0.5 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | ethyl bromoacetate | 0.33 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | ethyl 3-bromophenoxyacetate | 0.6 g | BrC=1C=C(OCC(=O)OCC)C=CC1 | C10H11BrO3
